US08034954B2
[5-(3-Ethoxy-benzenesulfonyl)-thiazol-2-yl]-[6-(3-methoxy-propyl)-2-methyl-pyrimidin-4-yl]-amine.
A mixture of [5-(3-Ethoxy-benzenesulfonyl)-thiazol-2-yl]-[6-(3-methoxy-prop-1-ynyl)-2-methyl-pyrimidin-4-yl]-amine (32.0 mg, 0.072 mol) and Pd—C (10%, 2.0 mg) in THF (1.00 mL) and EtOAc (1.00 mL) was stirred under H2 (70 psi, Parr) for 30 min. The reaction mixture was filtered through Celite using EtOAc (ca. 50 mL). The filtrate concentrated under reduced pressure to give the title compound (30 mg, 93%) as an off-white solid. LCMS (m/z): 449 (M+H)+

reactant | [5-(3-Ethoxy-benzenesulfonyl)-thiazol-2-yl]-[6-(3-methoxy-prop-1-ynyl)-2-methyl-pyrimidin-4-yl]-amine | 0.072 mol, 32.0 mg | C(C)OC=1C=C(C=CC1)S(=O)(=O)C1=CN=C(S1)NC1=NC(=NC(=C1)C#CCOC)C | C20H20N4O4S2
solvent | THF | 1.00 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 1.00 mL | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 2.0 mg | [Pd] | Pd
product | [5-(3-Ethoxy-benzenesulfonyl)-thiazol-2-yl]-[6-(3-methoxy-propyl)-2-methyl-pyrimidin-4-yl]-amine | 30 mg, 93% | C(C)OC=1C=C(C=CC1)S(=O)(=O)C1=CN=C(S1)NC1=NC(=NC(=C1)CCCOC)C | C20H24N4O4S2
